US04137320
A solution of 5 g of 3-methyl-6-hydroxymethyl-imidazo-(2,1-b)thiazole in 100 ml of dry chloroform is dropped at room temperature into a solution of 20 ml of p-chlorobenzoyl chloride and 12 ml of pyridine in 75 ml of dry chloroform. The solution is stirred for 30 minutes at room temperature and filtered. The filtrate is concentrated under vacuum; the residue obtained is dissolved in isopropanol and a stream of dry hydrogen chloride is bubbled into the solution to yield 6 g of 3-methyl-6-p-chlorobenzoyloxymethyl-imidazo-(2,1-b)thiazole hydrochloride; m.p. 198°-199°.

reactant | 3-methyl-6-hydroxymethyl-imidazo-(2,1-b)thiazole | 5 g | CC=1N2C(SC1)=NC(=C2)CO | C7H8N2OS
reactant | p-chlorobenzoyl chloride | 20 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-methyl-6-p-chlorobenzoyloxymethyl-imidazo-(2,1-b)thiazole hydrochloride | 6 g | Cl.CC=1N2C(SC1)=NC(=C2)COC(C2=CC=C(C=C2)Cl)=O | InChI=1S/C14H11ClN2O2S.ClH/c1-9-8-20-14-16-12(6-17(9)14)7-19-13(18)10-2-4-11(15)5-3-10;/h2-6,8H,7H2,1H3;1H
